US07214673B2
(S)-2-(2-(3-Methoxy-phenyl)-ethyl)-piperazine
Combine (S)-1,4-dibenzyl-2-(2-(3-methoxy-phenyl)-ethyl)-piperazine (2.15 g, 5.37 mmol), ammonium formate (1.69 g, 26.84 mmol), 5% Pd/C (259.7 mg), and ethanol (100 mL). Stir and heat the mixture at reflux. After 3 hours, cool to ambient temperature and remove the catalyst by vacuum filtration through celite. Reduce the filtrate to residue and purify it on silica gel using dichloromethane/7N ammonia in methanol (90:10) to give (1.11 g, 94%) of the title compound as a white solid: mp 53–57° C.; mass spectrum (ion spray): m/z=221.1 (M+1); Analysis for C13H20N2O: calcd: C, 70.87; H, 9.15; N, 12.72; found: C, 70.52; H, 9.06; N, 12.74.

reactant | (S)-1,4-dibenzyl-2-(2-(3-methoxy-phenyl)-ethyl)-piperazine | 5.37 mmol, 2.15 g | C(C1=CC=CC=C1)N1[C@H](CN(CC1)CC1=CC=CC=C1)CCC1=CC(=CC=C1)OC | C27H32N2O
reactant | ammonium formate | 26.84 mmol, 1.69 g | C(=O)[O-].[NH4+]
catalyst | Pd/C | 259.7 mg | [Pd] | Pd
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | (S)-2-(2-(3-Methoxy-phenyl)-ethyl)-piperazine | 1.11 g, 94% | COC=1C=C(C=CC1)CC[C@@H]1NCCNC1 | C13H20N2O
